US04241069
A mixture of 44.8 g (0.2 mol) of flavanone (commercially available from Aldrich Chemical Co., Milwaukee, Wisconsin), 32.6 g (0.4 mole) of dimethylamine hydrochloride, 12.6 g (0.4 mol) of paraformaldehyde, 1 ml of concentrated HCl, and 120 ml of 2-propanol was stirred at reflux for 1 hour. The reaction was then allowed to cool to room temperature, the solvent was removed under reduced pressure and the residue partitioned between 400 ml of ether and 1 liter of 5 percent aqueous hydrochloric acid. The aqueous phase was separated, washed with 200 ml of ether, cooled and made basic with solid K2CO3. The liberated base was extracted into ether, the ether solution dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was taken up in 200 ml of ethyl acetate and treated with excess acetyl chloride and ethanol. Upon cooling, white crystals precipitated. After drying, a yield of 43.8 g of 3-dimethylaminomethyl flavanone hydrochloride, (mp 172°-174° C.) was obtained.

reactant | flavanone | 0.2 mol, 44.8 g | O1C(CC(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H12O2
reactant | dimethylamine hydrochloride | 0.4 mole, 32.6 g | Cl.CNC
reactant | paraformaldehyde | 0.4 mol, 12.6 g | C=O | CH2O
reactant | HCl | 1 ml | Cl | ClH
solvent | 2-propanol | 120 ml | CC(C)O | C3H8O
product | 3-dimethylaminomethyl flavanone hydrochloride | yield of 43.8 g | Cl.CN(C)CC1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | InChI=1S/C18H19NO2.ClH/c1-19(2)12-15-17(20)14-10-6-7-11-16(14)21-18(15)13-8-4-3-5-9-13;/h3-11,15,18H,12H2,1-2H3;1H
